* File: DFSR.pex.netlist.pex
* Created: Sun Nov  7 21:59:30 2021
* Program "Calibre xRC"
* Version "v2021.3_35.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFSR_N 1 3 7 9 19 21 23 27 35 37 40 55 57 63 65 72 75
c122 75 0 0.0110423f
c123 72 0 0.00197473f
c124 65 0 0.00507372f
c125 63 0 0.00131862f
c126 57 0 0.0088835f
c127 55 0 0.00947866f
c128 40 0 0.002757f
c129 37 0 0.0140488f
c130 35 0 0.0019451f
c131 27 0 0.00647336f
c132 21 0 0.035439f
c133 19 0 0.0272566f
c134 7 0 0.0176389f
c135 1 0 0.0171291f
r136 75 78 1.42857
r137 72 78 88.2939
r138 65 68 0.0178571
r139 60 75 88.2939
r140 60 63 0.214286
r141 58 65 0.0146822
r142 57 72 0.0146822
r143 57 58 2.17857
r144 52 55 2.53571
r145 48 63 88.2939
r146 40 55 88.2939
r147 40 43 0.0922857
r148 37 68 88.2939
r149 35 37 2.41571
r150 33 52 88.2939
r151 29 35 0.212317
r152 25 43 89.3538
r153 25 27 4.472
r154 21 27 1.30843
r155 21 23 40.56
r156 17 27 1.30843
r157 17 19 37.05
r158 9 48 1.28657
r159 7 48 2.432
r160 3 29 1.47114
r161 3 33 1.62314
r162 1 33 1.33543
.ends

.subckt PM_DFSR_RST_BAR 1 3 11 15 20 29 36 42 48 51 57
c105 57 0 0.0120135f
c106 51 0 0.00976561f
c107 48 0 0.00687184f
c108 42 0 0.0610248f
c109 36 0 0.00569186f
c110 29 0 0.00430385f
c111 20 0 0.00628503f
c112 15 0 0.036507f
c113 11 0 0.0264185f
c114 1 0 0.0217029f
r115 57 60 1.42857
r116 51 54 2.14286
r117 45 57 88.2939
r118 45 48 0.464286
r119 42 60 88.2939
r120 39 54 88.2939
r121 39 42 7.14286
r122 36 51 88.2939
r123 33 36 1.125
r124 31 33 88.2939
r125 29 31 0.122941
r126 25 48 88.2939
r127 20 29 89.3538
r128 17 20 4.368
r129 13 17 1.30843
r130 13 15 41.21
r131 9 17 1.30843
r132 9 11 36.4
r133 3 25 0.537429
r134 1 25 2.42114
.ends

.subckt PM_DFSR_RST 3 7 14 18 22 27 31 36 38 41 48
c57 48 0 0.0171834f
c58 41 0 0.0037946f
c59 38 0 0.00381859f
c60 31 0 0.00278979f
c61 27 0 0.00558121f
c62 22 0 0.0360525f
c63 18 0 0.0253782f
c64 14 0 0.0133728f
c65 12 0 0.00842086f
c66 7 0 0.0431097f
c67 3 0 0.0327224f
r68 45 48 2.5
r69 43 48 88.2939
r70 41 43 0.184722
r71 40 45 88.2939
r72 38 40 0.177333
r73 33 41 0.0276495
r74 29 38 0.0353122
r75 29 31 0.960857
r76 27 31 89.3538
r77 24 27 4.368
r78 20 24 1.30843
r79 20 22 52.26
r80 16 24 1.30843
r81 16 18 46.54
r82 14 36 1.634
r83 14 33 0.808857
r84 10 14 89.3538
r85 10 12 4.472
r86 5 12 1.30843
r87 5 7 46.54
r88 1 12 1.30843
r89 1 3 29.51
.ends

.subckt PM_DFSR_CLKI_BAR 1 3 9 13 18 21 23 27 30 36 38 42 45 51 53 57 60 66 68
+ 72 75 80 93 97 101 102 108 114 122 130 136 142
c200 142 0 0.0124769f
c201 136 0 0.0176008f
c202 130 0 0.0075122f
c203 122 0 0.0154784f
c204 114 0 0.0253392f
c205 108 0 0.0295128f
c206 102 0 0.00369885f
c207 101 0 9.91676e-19
c208 97 0 0.00329745f
c209 95 0 3.43754e-19
c210 93 0 0.0107701f
c211 80 0 0.00149642f
c212 75 0 0.00390907f
c213 72 0 0.0090081f
c214 66 0 0.0252853f
c215 60 0 0.00351714f
c216 57 0 0.0096649f
c217 51 0 0.0227546f
c218 45 0 0.00360628f
c219 42 0 0.0096743f
c220 36 0 0.0226896f
c221 30 0 0.00361577f
c222 27 0 0.00951231f
c223 21 0 0.0265293f
c224 18 0 0.00639364f
c225 13 0 0.043135f
c226 9 0 0.0327397f
c227 1 0 0.0109211f
r228 142 145 2.14286
r229 136 139 2.85714
r230 130 133 0.714286
r231 125 142 88.2939
r232 122 145 88.2939
r233 119 139 88.2939
r234 114 136 88.2939
r235 111 130 88.2939
r236 111 114 2.85714
r237 108 133 88.2939
r238 97 102 0.160909
r239 96 101 0.0418175
r240 95 102 0.0418175
r241 95 96 0.76
r242 93 101 0.160909
r243 92 104 88.2939
r244 88 101 0.160909
r245 88 92 1.35714
r246 80 125 0.803571
r247 75 80 88.2939
r248 75 78 0.770857
r249 72 78 89.3538
r250 69 72 4.368
r251 66 69 1.30843
r252 66 68 23.79
r253 65 122 2.23214
r254 65 119 3.19643
r255 63 65 88.2939
r256 60 63 0.966286
r257 55 60 89.3538
r258 55 57 4.472
r259 51 57 1.30843
r260 51 53 22.75
r261 50 119 0.339286
r262 48 50 88.2939
r263 45 48 0.966286
r264 40 45 89.3538
r265 40 42 4.472
r266 36 42 1.30843
r267 36 38 22.75
r268 35 108 0.517857
r269 35 104 3.80357
r270 30 35 88.2939
r271 30 33 0.770857
r272 27 33 89.3538
r273 24 27 4.368
r274 21 24 1.30843
r275 21 23 23.79
r276 20 97 0.358286
r277 16 20 89.3538
r278 16 18 4.472
r279 11 18 1.30843
r280 11 13 46.54
r281 7 18 1.30843
r282 7 9 29.51
r283 3 93 0.971714
r284 1 92 0.249714
.ends

.subckt PM_DFSR_XML0.N1 1 3 7 9 20 30 31
c24 31 0 0.00112744f
c25 30 0 9.8429e-19
c26 22 0 4.21301e-19
c27 20 0 0.00915271f
c28 9 0 0.0088763f
c29 7 0 0.00887952f
c30 1 0 0.0087401f
r31 27 31 0.160909
r32 24 31 0.160909
r33 23 30 0.0418175
r34 22 31 0.0418175
r35 22 23 0.434286
r36 20 30 0.160909
r37 17 30 0.160909
r38 9 27 1.72086
r39 7 24 1.61771
r40 3 20 0.971714
r41 1 17 1.60686
.ends

.subckt PM_DFSR_XML0.N2 3 7 12 15 17 21 23 40 42 51 57
c65 57 0 0.00487009f
c66 51 0 0.00137352f
c67 42 0 0.00323405f
c68 40 0 0.00271029f
c69 38 0 3.43754e-19
c70 21 0 0.0176038f
c71 17 0 0.0101283f
c72 15 0 0.00873154f
c73 12 0 0.00794413f
c74 7 0 0.0401851f
c75 3 0 0.0306218f
r76 54 57 1.03571
r77 48 57 88.2939
r78 44 54 88.2939
r79 42 52 0.160909
r80 42 44 0.434286
r81 40 52 0.160909
r82 39 51 0.0418175
r83 38 52 0.0418175
r84 38 39 0.76
r85 35 51 0.160909
r86 32 51 0.160909
r87 23 48 1.28657
r88 21 48 2.432
r89 17 35 1.72086
r90 15 32 1.61771
r91 14 40 0.358286
r92 10 14 89.3538
r93 10 12 4.472
r94 5 12 1.30843
r95 5 7 44.85
r96 1 12 1.30843
r97 1 3 28.21
.ends

.subckt PM_DFSR_XML0.N4 1 3 9 11 21 25 26 35
c65 35 0 0.00436523f
c66 26 0 0.00138857f
c67 25 0 0.0030163f
c68 21 0 0.012664f
c69 9 0 0.00580018f
c70 1 0 0.0185358f
r71 32 35 1.32143
r72 25 27 0.212317
r73 25 26 0.705714
r74 21 35 88.2939
r75 19 26 0.212317
r76 19 21 1.73714
r77 16 32 88.2939
r78 11 21 0.852286
r79 9 27 1.02057
r80 3 16 1.28657
r81 1 16 2.432
.ends

.subckt PM_DFSR_XSL0.N1 3 7 12 15 17 21 23 40 42 57
c67 57 0 0.00487009f
c68 51 0 0.00107479f
c69 42 0 0.00271777f
c70 40 0 0.0026005f
c71 38 0 3.43754e-19
c72 21 0 0.0177253f
c73 17 0 0.00823071f
c74 15 0 0.00815936f
c75 12 0 0.00794413f
c76 7 0 0.0385973f
c77 3 0 0.0306218f
r78 54 57 1.03571
r79 48 57 88.2939
r80 44 54 88.2939
r81 42 52 0.160909
r82 42 44 0.434286
r83 40 52 0.160909
r84 39 51 0.0418175
r85 38 52 0.0418175
r86 38 39 0.76
r87 35 51 0.160909
r88 32 51 0.160909
r89 23 48 1.28657
r90 21 48 2.432
r91 17 35 1.72086
r92 15 32 1.61771
r93 14 40 0.358286
r94 10 14 89.3538
r95 10 12 4.472
r96 5 12 1.30843
r97 5 7 44.85
r98 1 12 1.30843
r99 1 3 28.21
.ends

.subckt PM_DFSR_XSL0.N2 1 3 9 13 18 20 26 30 35 44 60
c91 60 0 0.0223859f
c92 44 0 0.00281897f
c93 35 0 0.00643986f
c94 30 0 0.03627f
c95 26 0 0.0280876f
c96 20 0 0.00696662f
c97 18 0 0.00675037f
c98 13 0 0.0399626f
c99 9 0 0.0312439f
c100 1 0 0.0144077f
r101 58 60 2.03571
r102 55 58 2.53571
r103 52 60 88.2939
r104 44 58 88.2939
r105 44 47 0.0922857
r106 40 55 88.2939
r107 33 47 89.3538
r108 33 35 4.472
r109 28 35 1.30843
r110 28 30 51.61
r111 24 35 1.30843
r112 24 26 47.19
r113 20 52 0.0868571
r114 16 20 89.3538
r115 16 18 4.472
r116 11 18 1.30843
r117 11 13 44.85
r118 7 18 1.30843
r119 7 9 28.21
r120 3 40 1.62314
r121 1 40 1.33543
.ends

.subckt PM_DFSR_XSL0.N3 1 3 9 11 19 23 35
c65 35 0 0.00811696f
c66 23 0 0.00309107f
c67 19 0 0.00282337f
c68 11 0 0.00733442f
c69 9 0 0.0126127f
c70 1 0 0.0196238f
r71 32 35 1.32143
r72 30 35 88.2939
r73 24 30 0.106158
r74 23 25 0.212317
r75 23 24 0.705714
r76 19 30 0.106158
r77 16 32 88.2939
r78 11 25 0.743714
r79 9 19 2.86629
r80 3 16 1.28657
r81 1 16 2.432
.ends

.subckt PM_DFSR_VSS! 1 3 5 9 13 17 21 25 51 52 53 68 69 73 78 81 85 91 96 102
+ 111 116
c148 131 0 0.00293005f
c149 128 0 0.00292818f
c150 127 0 0.00293005f
c151 126 0 0.00297332f
c152 125 0 0.00293005f
c153 124 0 0.00293005f
c154 123 0 0.00293005f
c155 116 0 0.0290392f
c156 112 0 0.00943038f
c157 111 0 0.0254264f
c158 102 0 0.0176357f
c159 96 0 0.042036f
c160 91 0 0.0537014f
c161 85 0 0.0420237f
c162 78 0 0.042213f
c163 73 0 0.0139725f
c164 69 0 0.0118051f
c165 68 0 0.0145337f
c166 53 0 0.00469283f
c167 52 0 0.00700572f
c168 51 0 0.0107687f
c169 25 0 0.00710739f
c170 21 0 0.00760373f
c171 17 0 0.0074382f
c172 13 0 0.00706961f
c173 9 0 0.00762055f
c174 5 0 0.00753436f
c175 3 0 0.0100925f
c176 1 0 0.0104261f
r177 129 130 0.335294
r178 117 131 0.0731438
r179 116 118 0.264221
r180 116 117 0.57
r181 113 131 0.145286
r182 112 130 0.0782353
r183 111 131 0.0731438
r184 111 112 1.07294
r185 108 130 0.185986
r186 104 129 0.185986
r187 103 128 0.0731438
r188 102 129 0.0782353
r189 102 103 0.782353
r190 98 128 0.145286
r191 97 127 0.0731438
r192 96 128 0.0731438
r193 96 97 1.74353
r194 93 127 0.145286
r195 92 126 0.0731438
r196 91 127 0.0731438
r197 91 92 2.23529
r198 87 126 0.145286
r199 86 125 0.0731438
r200 85 126 0.0731438
r201 85 86 1.74353
r202 82 125 0.145286
r203 79 124 0.0731438
r204 79 81 0.614706
r205 78 125 0.0731438
r206 78 81 1.12882
r207 75 124 0.145286
r208 74 123 0.0731438
r209 73 124 0.0731438
r210 73 74 0.625882
r211 70 123 0.145286
r212 68 123 0.0731438
r213 68 69 0.625882
r214 65 69 0.264221
r215 53 104 0.743714
r216 52 98 0.743714
r217 51 87 0.743714
r218 25 108 0.781714
r219 21 93 0.781714
r220 17 82 0.781714
r221 13 75 0.781714
r222 9 113 0.781714
r223 5 70 0.781714
r224 3 118 0.716571
r225 1 65 0.781714
.ends

.subckt PM_DFSR_VDD! 1 3 5 9 13 17 21 25 54 55 56 68 69 73 78 81 85 91 97 102
+ 108 113 118
c154 133 0 0.00294753f
c155 132 0 0.00294753f
c156 131 0 0.0029942f
c157 130 0 0.00294753f
c158 129 0 0.00302514f
c159 128 0 0.00302514f
c160 127 0 0.00294753f
c161 126 0 0.00294753f
c162 125 0 0.00294753f
c163 118 0 0.0290354f
c164 113 0 0.0259985f
c165 108 0 0.0256159f
c166 102 0 0.0422747f
c167 97 0 0.0307171f
c168 91 0 0.0176518f
c169 85 0 0.0384496f
c170 78 0 0.0423369f
c171 73 0 0.014548f
c172 69 0 0.0118225f
c173 68 0 0.014548f
c174 56 0 0.0123862f
c175 55 0 0.0134157f
c176 54 0 0.0144237f
c177 25 0 0.00823936f
c178 21 0 0.00951962f
c179 17 0 0.0101686f
c180 13 0 0.0104484f
c181 9 0 0.0084637f
c182 5 0 0.00899547f
c183 3 0 0.00961227f
c184 1 0 0.0125489f
r185 119 133 0.0731438
r186 118 120 0.264221
r187 118 119 0.581176
r188 115 133 0.145286
r189 114 132 0.0731438
r190 113 133 0.0731438
r191 113 114 1.07294
r192 110 132 0.145286
r193 109 131 0.0731438
r194 108 132 0.0731438
r195 108 109 1.11765
r196 104 131 0.145286
r197 103 130 0.0731438
r198 102 131 0.0731438
r199 102 103 1.74353
r200 99 130 0.145286
r201 98 129 0.0731438
r202 97 130 0.0731438
r203 97 98 1.29647
r204 93 129 0.145286
r205 92 128 0.0731438
r206 91 129 0.0731438
r207 91 92 0.782353
r208 87 128 0.145286
r209 86 127 0.0731438
r210 85 128 0.0731438
r211 85 86 1.74353
r212 82 127 0.145286
r213 79 126 0.0731438
r214 79 81 1.06176
r215 78 127 0.0731438
r216 78 81 0.681765
r217 75 126 0.145286
r218 74 125 0.0731438
r219 73 126 0.0731438
r220 73 74 0.625882
r221 70 125 0.145286
r222 68 125 0.0731438
r223 68 69 0.625882
r224 65 69 0.264221
r225 56 104 1.94343
r226 55 93 1.94343
r227 54 87 1.94343
r228 25 110 1.03686
r229 21 99 1.03686
r230 17 82 1.03686
r231 13 75 1.03686
r232 9 115 1.03686
r233 5 70 1.03686
r234 3 120 0.722
r235 1 65 1.03686
.ends

.subckt PM_DFSR_CLKI 1 3 7 9 13 16 22 24 28 31 37 39 43 46 52 54 58 61 84 92 98
+ 103 106 112 118
c179 118 0 0.019192f
c180 112 0 0.0075122f
c181 106 0 0.0125306f
c182 103 0 0.00126048f
c183 98 0 0.0273794f
c184 92 0 0.0207729f
c185 84 0 0.0305418f
c186 61 0 0.00375127f
c187 58 0 0.009683f
c188 52 0 0.0233165f
c189 46 0 0.00382791f
c190 43 0 0.00914479f
c191 37 0 0.0265293f
c192 31 0 0.00376254f
c193 28 0 0.00901948f
c194 22 0 0.0252853f
c195 16 0 0.0042797f
c196 13 0 0.00950557f
c197 7 0 0.0248931f
c198 1 0 0.0223563f
r199 118 121 2.85714
r200 112 115 0.714286
r201 106 109 2.14286
r202 103 121 88.2939
r203 98 118 88.2939
r204 95 112 88.2939
r205 95 98 2.85714
r206 92 115 88.2939
r207 87 106 88.2939
r208 84 109 88.2939
r209 77 80 88.2939
r210 66 103 0.339286
r211 64 66 88.2939
r212 61 64 0.966286
r213 56 61 89.3538
r214 56 58 4.472
r215 52 58 1.30843
r216 52 54 22.75
r217 51 92 0.517857
r218 46 51 88.2939
r219 46 49 0.770857
r220 43 49 89.3538
r221 40 43 4.368
r222 37 40 1.30843
r223 37 39 23.79
r224 36 51 4.10714
r225 36 87 0.803571
r226 31 36 88.2939
r227 31 34 0.770857
r228 28 34 89.3538
r229 25 28 4.368
r230 22 25 1.30843
r231 22 24 23.79
r232 21 84 2.23214
r233 21 80 2.26786
r234 19 21 88.2939
r235 16 19 0.966286
r236 11 16 89.3538
r237 11 13 4.472
r238 7 13 1.30843
r239 7 9 22.75
r240 3 77 0.548286
r241 1 3 2.95857
.ends

.subckt PM_DFSR_CLK 3 7 12 14 19
c15 14 0 0.0165167f
c16 12 0 0.00744244f
c17 7 0 0.0437317f
c18 3 0 0.0327397f
r19 14 19 1.19971
r20 10 14 89.3538
r21 10 12 4.472
r22 5 12 1.30843
r23 5 7 46.54
r24 1 12 1.30843
r25 1 3 29.51
.ends

.subckt PM_DFSR_D 3 7 12 14 19
c21 14 0 0.00772746f
c22 12 0 0.00750685f
c23 7 0 0.04084f
c24 3 0 0.0312439f
r25 14 19 1.11829
r26 10 14 89.3538
r27 10 12 4.472
r28 5 12 1.30843
r29 5 7 44.85
r30 1 12 1.30843
r31 1 3 28.21
.ends

.subckt PM_DFSR_Q 1 3 12
c14 1 0 0.0180676f
r15 3 12 1.16171
r16 1 12 1.79686
.ends

