* File: INVD1.pex.netlist
* Created: Sat Oct 23 03:10:56 2021
* Program "Calibre xRC"
* Version "v2021.3_35.19"
* 
.subckt INVD1 vi vo 
* 
MM0 vo vi VSS! VSS! NMOS_VTG L=6e-08 W=3e-07 AD=3.15e-14 AS=3.15e-14 PD=8.1e-07
+ PS=8.1e-07
MM1 vo vi VDD! VDD! PMOS_VTG L=6e-08 W=4e-07 AD=4.2e-14 AS=4.2e-14 PD=1.01e-06
+ PS=1.01e-06
c_4 vi 0 0.0960491f
c_8 vo 0 0.0362083f
c_12 VSS! 0 0.0737134f
c_16 VDD! 0 0.0760113f
*
.include "INVD1.pex.netlist.INVD1.pxi"
*
.ends
*
*
